US09056832B2
In a 50-ml vial with a screw-top septum, 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid ethyl ester (0.445 g) was dissolved in 3 ml methanol. 7N NH3/MeOH (6 ml) was added to the solution and stirred for 3 hours, at which time the reaction was complete. The reaction mixture was concentrated under reduced pressure and the residue was suspended in about 3 ml methanol. The suspension was collected by vacuum filtration and washed with cold methanol to provide 0.267 g of 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid amide as a very pure yellow solid (65% yield).

reactant | NH3 MeOH | 7N, 6 ml | N.CO
reactant | 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid ethyl ester | 0.445 g | C(C)OC(=O)C1=NC(=CC(=C1)Cl)C1=CC(=CC=C1)OC1=CC=C(C=C1)F | C20H15ClFNO3
solvent | methanol | 3 ml | CO | CH4O
product | 4-chloro-6-[3-(4-fluoro-phenoxy)-phenyl]-pyridine-2-carboxylic acid amide | 0.267 g | ClC1=CC(=NC(=C1)C1=CC(=CC=C1)OC1=CC=C(C=C1)F)C(=O)N | C18H12ClFN2O2
